US07348438B2
5,6-Dichloro-1-(2-methyl-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (583 mg) in DMF (6 mL) was added potassium carbonate powder (900 mg) and 2-methylbenzyl bromide (1.2 g). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes), followed by washing solid with hexanes to yield the title compound as a tan solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 583 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 900 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylbenzyl bromide | 1.2 g | CC1=C(CBr)C=CC=C1 | C8H9Br
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-1-(2-methyl-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC2=C(C=CC=C2)C)C=C1Cl | C17H13Cl2F3N2
